US07615568B2
B. Methyl 2-(3-t-Butoxycarbonylaminopropoxy)-4-(ethylthio)benzoate
Using a procedure analogous to Example 1-D, methyl 2-hydroxy-4-(ethylthio)benzoate and 3-t-butoxycarbonylamino-propanol gave the title compound as a solid (10.41 g, 85%).

reactant | methyl 2-hydroxy-4-(ethylthio)benzoate | OC1=C(C(=O)OC)C=CC(=C1)SCC | C10H12O3S
reactant | 3-t-butoxycarbonylamino-propanol | C(C)(C)(C)OC(=O)NCCCO | C8H17NO3
product | Methyl 2-(3-t-Butoxycarbonylaminopropoxy)-4-(ethylthio)benzoate | 10.41 g, 85% | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)OC)C=CC(=C1)SCC | C18H27NO5S
